US04358409
22.8 g (0.1 mol) of benzylphosphonic acid diethyl ester were added dropwise to a solution, cooled to 0° to 5° C., of 22.4 g (0.2 mol) of potassium tert.-butylate in 100 ml of tetrahydrofuran (dried over sodium) in the course of 15 minutes. The mixture was stirred for one hour; a solution of 28 g (0.1 mol) of α-hydroxy-4-chlorobenzylphosphonic acid diethyl ester in 50 ml of tetrahydrofuran was then added to the mixture, while cooling to 0° to 5° C., and the mixture was stirred at room temperature (about 20° C.) for a further 15 hours. It was then poured into 1 liter of ice-water, filtered off and dried. 18 g (84% of theory) of 1-(4-chlorophenyl)-2-phenyl-ethylene were thus obtained in the form of colorless crystals of melting point 130° C.

reactant | benzylphosphonic acid diethyl ester | 0.1 mol, 22.8 g | C(C)OP(OCC)(=O)CC1=CC=CC=C1 | C11H17O3P
reactant | α-hydroxy-4-chlorobenzylphosphonic acid diethyl ester | 0.1 mol, 28 g | C(C)OP(OCC)(=O)C(C1=CC=C(C=C1)Cl)O | C11H16ClO4P
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 1-(4-chlorophenyl)-2-phenyl-ethylene | 18 g, 84% | ClC1=CC=C(C=C1)C=CC1=CC=CC=C1 | C14H11Cl
